US04017506
37.8 parts of 2-morpholinosulphenyl-benzothiazole are suspended in 65 parts of water containing 5 parts of sodium carbonate and 1 part of sodium bicarbonate. 90 parts by volume of an aqueous solution of sodium hypochlorite titrating 177 g. of NaClO and 3 g. of free caustic soda per liter are slowly introduced in a period of one hour into the well stirred suspension. The temperature is maintained at 25° C. and the mixture is stirred for 20 hours at this temperature. It is filtered, the solid is washed until neutral and dried under vacuum. 37 parts of 2-morpholinosulphinyl-benzothiazole melting at 93°-94° C. are obtained, that is a yield of 93%. On recrystallisation from a benzene/petrol ether mixture, the melting point is 99° C. (uncorrected).

reactant | 2-morpholinosulphenyl-benzothiazole | O1CCN(CC1)SC=1SC2=C(N1)C=CC=C2 | C11H12N2OS2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hypochlorite | 177 g | Cl[O-].[Na+]
reactant | NaClO | [O-]Cl.[Na+]
reactant | caustic soda | [OH-].[Na+]
solvent | water | O | H2O
product | 2-morpholinosulphinyl-benzothiazole | yield of 93% | O1CCN(CC1)S(=O)C=1SC2=C(N1)C=CC=C2 | C11H12N2O2S2
